US07396836B2
5-[2-Amino-4-(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone
A suspension of 5-[6-(benzyloxy)-3-pyridyl]-4-(2-furyl)-2-pyrimidinylamine (8.35 g, 24.2 mmol) in concentrated hydrochloric acid (40 ml)-water (40 ml) was stirred at 80° C. for 1 hour. After cooling as it was, the reaction mixture was washed with ethyl acetate twice. The aqueous layer was neutralized with an aqueous 5N sodium hydroxide solution. The resulting solid was collected by filtration, washed with water and dried at 50° C. for 14 hours, to give the title compound (5.54 g, 90%) as a pale brown solid.

reactant | 5-[6-(benzyloxy)-3-pyridyl]-4-(2-furyl)-2-pyrimidinylamine | 24.2 mmol, 8.35 g | C(C1=CC=CC=C1)OC1=CC=C(C=N1)C=1C(=NC(=NC1)N)C=1OC=CC1 | C20H16N4O2
reactant | water | 40 ml | O | H2O
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | 5-[2-Amino-4-(2-furyl)-5-pyrimidinyl]-1,2-dihydro-2-pyridinone | 5.54 g, 90% | NC1=NC=C(C(=N1)C=1OC=CC1)C=1C=CC(NC1)=O | C13H10N4O2
